US06444091B1
Preparation of Poly(4,4′-diamino-2,2′-biphenyldisulfonic Acid/benzene-1,4-dicarbonyl Chloride)(“Polymer A”)
Into a 1-L fluted round-bottom flask equipped with a mechanical stirring shaft, is placed 250 ml of deionized water and 7.95 g of sodium carbonate. The mixture is stirred until the carbonate salt dissolves. Then, 7.641 g of 4,4′-diamino-2,2′-biphenyldisulfonic acid (DABS, 85%) is added, and the mixture is stirred until a homogeneous solution is obtained. A solution containing 2.00 g of PEG 200 dioleate surfactant dissolved in 100 ml of purified chloroform is prepared and set aside. Another solution containing 3.806 g of terephthaloyl chloride dissolved in 100 ml of purified chloroform is also prepared. The reaction flask is stirred at high speed (800-1000 rpm), and the chloroform/surfactant solution is added quickly to the flask. The mixture is stirred for 5 minutes, resulting in an emulsion. Then, the chloroform solution containing the terephthaloyl chloride is added to the flask as quickly as possible. The reaction mixture is stirred at room temperature and at high speed for 2-3 hours. At the end of this period the thickened gel-like solution is poured into a large flask containing 300 ml ethanol/900 ml acetone. The resulting solid is filtered and dried in a vacuum oven to give the desired polymer (9.15 g) as a fluffy light purple solid.

reactant | water | 250 ml | O | H2O
reactant | sodium carbonate | 7.95 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4,4′-diamino-2,2′-biphenyldisulfonic acid | 7.641 g | NC=1C=C(C(=CC1)C=1C(=CC(=CC1)N)S(=O)(=O)O)S(=O)(=O)O | C12H12N2O6S2
reactant | terephthaloyl chloride | 3.806 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 4,4′-diamino-2,2′-biphenyldisulfonic Acid benzene-1,4-dicarbonyl Chloride | 9.15 g | NC=1C=C(C(=CC1)C=1C(=CC(=CC1)N)S(=O)(=O)O)S(=O)(=O)O.C1(=CC=C(C=C1)C(=O)Cl)C(=O)Cl | InChI=1S/C12H12N2O6S2.C8H4Cl2O2/c13-7-1-3-9(11(5-7)21(15,16)17)10-4-2-8(14)6-12(10)22(18,19)20;9-7(11)5-1-2-6(4-3-5)8(10)12/h1-6H,13-14H2,(H,15,16,17)(H,18,19,20);1-4H
